US08541592B2
4-(2-((S)-1-(2-fluorophenyl)ethylamino)-5-methyl-4-oxo-4,5-dihydrothiazol-5-yl)benzamide
The mixture of 4-(2-((S)-1-(2-fluorophenyl)ethylamino)-5-methyl-4-oxo-4,5-dihydrothiazol-5-yl)benzonitrile (0.080 g, 0.23 mmol) and potassium hydroxide (VWR, 0.17 g, 2.9 mmol) and t-BuOH (2 mL) was gradually heated to 85° C. The solid gradually dissolved and the mixture became a solution. After 1 h, the reaction was added to 2N HCl until the pH was ca. 7-8. The mixture was extracted three times with CH2Cl2, and the combined organic layers was dried over Na2SO4, filtered, and concentrated in vacuo. The crude was purified by silica gel chromatography. MS: 372 (M+1), 370 (M−1).

reactant | 4-(2-((S)-1-(2-fluorophenyl)ethylamino)-5-methyl-4-oxo-4,5-dihydrothiazol-5-yl)benzonitrile | 0.23 mmol, 0.080 g | FC1=C(C=CC=C1)[C@H](C)NC=1SC(C(N1)=O)(C)C1=CC=C(C#N)C=C1 | C19H16FN3OS
reactant | potassium hydroxide | 2.9 mmol, 0.17 g | [OH-].[K+]
reactant | HCl | 2N | Cl | ClH
solvent | t-BuOH | 2 mL | CC(C)(C)O | C4H10O
product | 4-(2-((S)-1-(2-fluorophenyl)ethylamino)-5-methyl-4-oxo-4,5-dihydrothiazol-5-yl)benzamide | FC1=C(C=CC=C1)[C@H](C)NC=1SC(C(N1)=O)(C)C1=CC=C(C(=O)N)C=C1 | C19H18FN3O2S
